### ISSUE TITLE
Section 4.4, `simp` doesn't close the goal. 

### ISSUE THREAD

**Issue by JADekker** [leanprover/fp-lean#152]
For both of the following results, `simp` alone makes no progress for me, contrary to what the book suggests. 

```
theorem atLeastThreeSpiders : idahoSpiders.inBounds 2 := by
  simp
  --the following closes the goal: simp [NonEmptyList.inBounds, List.length]


theorem notSixSpiders : ¬idahoSpiders.inBounds 5 := by
  simp
  --the following closes the goal: simp [NonEmptyList.inBounds, List.length]
```

The context I'm working in is:
```
def northernTrees : Array String :=
  #["sloe", "birch", "elm", "oak"]

#check northernTrees

structure NonEmptyList (α : Type) : Type where
  head : α
  tail : List α

def idahoSpiders : NonEmptyList String := {
  head := "Banded Garden Spider",
  tail := [
    "Long-legged Sac Spider",
    "Wolf Spider",
    "Hobo Spider",
    "Cat-faced Spider"
  ]
}
def NonEmptyList.get? : NonEmptyList α → Nat → Option α
  | xs, 0 => some xs.head
  | {head := _, tail := []}, _ + 1 => none
  | {head := _, tail := h :: t}, n + 1 => get? {head := h, tail := t} n

abbrev NonEmptyList.inBounds (xs : NonEmptyList α) (i : Nat) : Prop :=
  i ≤ xs.tail.length

theorem atLeastThreeSpiders : idahoSpiders.inBounds 2 := by
  simp
  -- [NonEmptyList.inBounds, List.length]

theorem notSixSpiders : ¬idahoSpiders.inBounds 5 := by
  simp
  -- [NonEmptyList.inBounds, List.length]
```

**Comment by dijkstracula** [comment]
I think this is because of the same reason as described in #137 and https://github.com/leanprover/lean4/releases/tag/v4.3.0 .  You can close the goal with (presumably at least!) two other ways: `(by simp (config := {decide := true}))` and `by decide`.

**Comment by JADekker** [comment]
Thank you, I'll close this issue as it duplicates #137.
